*=============================================================
* AO3407A - Generic LTspice-safe PMOS model (3-pin)
* NOT manufacturer model - behavioral approximation
*
* Pins:
*   D = Drain
*   G = Gate
*   S = Source
*
* Use:
*   X1 D G S AO3407A
*=============================================================

.SUBCKT AO3407A D G S

*-------------------------------------------------------------
* PMOS transistor
* Body is tied internally to Source (S S)
*-------------------------------------------------------------
M1 D G S S PMOS_CORE

*-------------------------------------------------------------
* Body diode (Drain -> Source)
*-------------------------------------------------------------
D1 D S DIODE_BODY

.ENDS AO3407A


*=============================================================
* MOSFET CORE MODEL (no parentheses formatting issues)
*=============================================================
.model PMOS_CORE PMOS
+ LEVEL=1
+ VTO=-2
+ KP=18
+ LAMBDA=0.02
+ RD=0.02
+ RS=0.02
+ CGSO=2e-10
+ CGDO=1e-10
+ CBD=1e-10
+ CBS=1e-10
+ IS=1e-14


*=============================================================
* BODY DIODE MODEL
*=============================================================
.model DIODE_BODY D
+ IS=1e-10
+ N=1.1
+ RS=0.02
+ BV=35
+ IBV=1m
+ CJO=1e-10