*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :15/09/2016
*  File Name            :CUS10S30.lib
*  Part Number          :CUS10S30
*  Parameter Ver.       :Ver.1
*  Simulator            :PSpice
*  Model Call Name      :CUS10S30
*  TNOM                 :25 degree
*  Pin Assign           :1=Anode 2=Cathode
*********************************************************************
.SUBCKT CUS10S30 1 2
D1 11 2 CUS10S30
J1 1 11 11 j1
R1 11 2 1E+15
.MODEL CUS10S30 D (
+ IS = 1.8338e-005
+ N = 0.94847
+ RS = 0.025763
+ BV = 30
+ IBV = 1E-10
+ CJO = 1.3454e-010
+ M = 0.66446
+ VJ = 0.75954
+ TT = 0
+ TNOM = 25
+ XTI = -20.7786 )
.MODEL j1 NJF (
+ VTO = -15
+ BETA = 0.09713
+ LAMBDA = 50.6489
+ VTOTC = 0.1079
+ TNOM = 25 )
.ENDS
