*$
* LM3480-12
*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM3480-12
* Date: 18MAY2017
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.s003
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SNVS011H –JUNE 1999–REVISED SEPTEMBER 2015
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Start-up behaviour is modeled
*      b. Line transients is modeled
*      c. Load transients is modeled
*      d. Drop-out voltage is modeled
*      e. PSRR is modeled only till 1st pole and 1st Zero (Model limitation)
*      f. Current limit is modeled
* 2. Quiescent current, noise characteristics and temperature effects are not modeled
*
*****************************************************************************

*$
.SUBCKT LM3480-12_TRAN GND VIN VOUT
E_E11         V_FBK 0 VALUE { V(FB, GND) }
E_E6         VOUT1 0 VALUE { V(VOUT, GND) }
X_H3    N549444 VZZ 0 VSEN LM3480-12_H3
C_C4         0 N434534  0.7u
E_U1_ABM4         U1_N16777545 0 VALUE { V(U1_VSOFT) * (ABS(V(VOUT1)) + 1e-6) / (ABS(V(V_FBK)) + 1e-6)  }
X_U1_U13         VIN_INT U1_N16777367 U1_N16780421 VIN_OK COMPHYS_BASIC_GEN
+  PARAMS:  VDD=1 VSS=0 VTHRESH=0.5
R_U1_R4         U1_N16777545 U1_N16777414  10 TC=0,0
E_U1_E1         U1_DROP 0 TABLE { V(LOAD, 0) }
+ ( (0,600m) (20m,760m) (40m 810m) (60m 850m) (80m 880m) (100m 900m) )
C_U1_C2         0 U1_N16777414  1n
R_U1_R3         0 U1_VSOFT  1G
E_U1_ABM6         U1_N16805621 0 VALUE { {IF(V(VIN_OK)>0.5,0.6,0)}    }
E_U1_E12         U1_N16777607 GND VALUE { V(U1_N16777612, 0) }
C_U1_C4         0 U1_VSOFT  100u  TC=0,0
R_U1_R5         U1_N16777607 N434296  10 TC=0,0
C_U1_C3         GND N434296  1n
V_U1_V3         U1_N16780421 0 100m
V_U1_V4         U1_N16777367 0 1
G_U1_ABMI1         U1_N16805621 U1_VSOFT VALUE { {IF(V(U1_VSOFT)>0.24, 3.6,
+  100u*0.24/V(U1_STUTIME))}    }
X_U1_U14         U1_VSOFT U1_N16805621 dclamp
E_U1_E2         U1_STUTIME 0 TABLE { V(LOAD, 0) }
+ ( (0,760u) (100m,1080u) )
R_U1_R2         0 U1_N16777414  1G
E_U1_ABM5         U1_N16777612 0 VALUE { MIN(V(U1_N16777414),
+ MAX(V(VIN_INT) -V(U1_DROP), 0))   }
X_H2    VZZ N661965 LOAD 0 LM3480-12_H2
X_F1    N435184 N549444 N434354 VYY LM3480-12_F1
X_S2    N434534 0 VIN N434354 LM3480-12_S2
E_E8         VIN_INT 0 VALUE { V(VIN, GND) }
R_R1         VXX N434354  {RINP}
C_C6         VSEN N434296  1u
R_R2         N434296 VXX  {PSRR*RINP}
E_E10         N435188 GND VALUE { V(N561452, 0) }
E_ABM1         N561452 0 VALUE { {MIN(V(N691921), (V(Vzz_INT)+(ILIM*ROUT)))}
+  }
C_C5         GND N434354  1n
C_C1         VXX N434354  {1/(6.28*RINP*POLE)}
R_R6         N435188 VYY  10 TC=0,0
E_E7         VZZ_INT 0 VALUE { V(VZZ, GND) }
C_C2         VXX N434296  {1/(6.28*PSRR*RINP*ZERO*1)}
C_C3         GND VYY  1n
R_R5         N435184 VYY  {ROUT}
E_E9         N691921 0 VALUE { V(VXX, GND) }
R_R3         GND FB  50k
V_Vload         N661965 VOUT 0Vdc
R_R4         FB VOUT  950k
R_R8         VIN_OK N434534  50 TC=0,0
.IC         V(U1_VSOFT )=0
.PARAM  psrr=316.22u venb=0.9 ilim=200m pole=20 rinp=1e6 zero=1k rout=400m
+  ttrn=70u rinpl=1e7 ehys=0.5 vref=0.6 drop=350m
.ENDS LM3480-12_TRAN
*$
.subckt LM3480-12_H3 1 2 3 4
H_H3         3 4 VH_H3 2.3
VH_H3         1 2 0V
.ends LM3480-12_H3
*$
.subckt LM3480-12_H2 1 2 3 4
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ends LM3480-12_H2
*$
.subckt LM3480-12_F1 1 2 3 4
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LM3480-12_F1
*$
.subckt LM3480-12_S2 1 2 3 4
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1MEG Ron=10 Voff=0.0V Von=0.8V
.ends LM3480-12_S2
*$

.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5

EIN INP1 INM1 INP INM 1

EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }

EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }

R1 OUT 1 1

C1 1 0 5n

RINP1 INP1 0 1K

.ENDS COMPHYS_BASIC_GEN

*$

.subckt dclamp 1 2

d1 1 2 dcl

.model dcl d

+ is=1e-015

+ tt=1e-011

+ rs=0.0001

+ n=0.001

.ends dclamp

$
