* C:\Users\jason\OneDrive\Documents\GitHub\BowelProbe\LTspiceSim\Stage4Probe_Buffer_and_Phase_Detector.asc
V1 0 nVss 12
V2 nVdd5 0 5 Rser=312m
V3 nVdd12 0 12 Rser=0.05
R1 nProbe 0 100 tol=1 pwr=0.5
R§Probe N001 nProbe 218
XU1 nProbe nBuffer2 nVdd12 nVss nBuffer2 TL07XH_TL08XH
C1 nVdd12 0 0.1µ V=16 Irms=0.6 Rser=0.05
C2 0 nVdd12 10µ V=10 Irms=1.25 Rser=5m
C3 nVss 0 0.1µ V=16 Irms=0.6 Rser=0.05
C4 0 nVss 10µ V=10 Irms=1.25 Rser=5m
VAmplified nAmplified 0 SINE(0 5 500)
XU2 nAmplified 0 nVdd12 nVss NC_01 A 0 LM311
XU3 nProbe 0 nVdd12 nVss NC_02 B 0 LM311
XU4 N002 A B nVdd5 0 SN74LVC1G86
C5 nVdd12 0 0.1µ V=16 Irms=0.6 Rser=0.05
C6 0 nVdd12 10µ V=10 Irms=1.25 Rser=5m
C7 nVdd12 0 0.1µ V=16 Irms=0.6 Rser=0.05
C8 0 nVdd12 10µ V=10 Irms=1.25 Rser=5m
C9 nVss 0 0.1µ V=16 Irms=0.6 Rser=0.05
C10 0 nVss 10µ V=10 Irms=1.25 Rser=5m
C11 nVss 0 0.1µ V=16 Irms=0.6 Rser=0.05
C12 0 nVss 10µ V=10 Irms=1.25 Rser=5m
R2 nVdd5 A 10k
R3 nVdd5 B 10k
C13 nVdd5 0 0.1µ V=16 Irms=0.6 Rser=0.05
C14 0 nVdd5 10µ V=10 Irms=1.25 Rser=5m
R4 N003 N002 30k
C15 N003 0 .1µ
C16 nAmplified N001 1µ
R5 nPD N003 30k
C17 nPD 0 .1µ
.tran 0 500m 0 1m startup
.include tl07xh_tl08xh.txt
.include lm311.lib
.include SN74LVC1G86.lib
.lib C:\Users\jason\OneDrive\Documents\GitHub\BowelProbe\LTspiceSim\lm311.lib
.lib C:\Users\jason\OneDrive\Documents\GitHub\BowelProbe\LTspiceSim\SN74LVC1G86.lib
.backanno
.end
